US07732477B2
Methyl thieno[2,3-f][1,3]benzodioxole-6-carboxylate
Using 3.0 g (13.1 mmol) of 6-bromopiperonal, 0.79 g (19.7 mmol) of sodium hydride (60% pure) and 1.53 g (14.4 mmol) of methyl mercaptoacetate, 732 mg (18.5% of theory) of the title compound are obtained.

reactant | 6-bromopiperonal | 13.1 mmol, 3.0 g | C1OC2=C(O1)C=C(C(=C2)C=O)Br | C8H5BrO3
reactant | sodium hydride | 19.7 mmol, 0.79 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 14.4 mmol, 1.53 g | SCC(=O)OC | C3H6O2S
product | Methyl thieno[2,3-f][1,3]benzodioxole-6-carboxylate | O1COC2=C1C=C1C(=C2)SC(=C1)C(=O)OC | C11H8O4S
